resistor_cube - fault test
V1 n7 0 DC 12
C1 0 n1 9.35e-06
R2 0 n2 1.003612
R3 0 n4 0.996532
R4 n1 n3 1.010433
R5 n1 n5 1.012982
R6 n2 n3 0.980853
R7 n2 n6 1.012974
R8 n3 n7 1.014716
R9 n4 n5 0.991044
R10 n4 n6 1.001195
R11 n5 n7 0.988077
R12 n6 n7 1.01207
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
